* source SCHEMA
V_V1         N00503 0   STIMULUS=sin
X_D6         N00565 N00966 N00740 MAC228A6
R_R7         0 N00800  2k  
R_R6         N01609 N02344  3k  
D_D1         N00740 N00503 MUR160 
D_D2         N00503 N00565 MUR160 
C_C1         N01609 N00740  100n  
D_D5         N00740 N01136 D1N758 
D_D3         N00740 N00800 MUR160 
R_R3         N00740 N01455  2k  
Q_VT2         N01455 N01922 N00966 QBC846/PLP 
R_R1         N00740 N00966  100  
D_D4         N00800 N00565 MUR160 
R_R4         N01455 N01136  2k  
R_R5         N02344 N01136  50k  
Q_VT1         N01922 N01455 N01609 Q2N4250
R_R2         N01136 N00565  30k  
